US07728155B2
Treatment of (±)-3-[1-(benzyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl]propane-1,2-diol (9.6 g, 0.031 mol) with tert-butyldimethylsilyl chloride (4.86 g, 0.032 mol) and imidazole (2.51 g, 0.037 mol) generally according to the procedure described for Intermediate 3 afforded 7.93 g (61%) of (±)-1-[1-(benzyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol as a colorless oil. Rf=0.63 (silica, ethyl acetate:hexanes 1:3); 1H NMR (DMSO-d6) δH 7.48 (d, 2H); 7.35 (m, 3H); 7.03 (d, 1H); 6.78 (d, 1H); 4.77 (q, 2H); 4.55 (d, 1H); 3.75 (m, 1H); 3.45 (m, 2H); 2.85 (dd, 1H); 2.69 (m, 4H), 2.51 (dd, 1H); 1.68 (m, 4H); 0.8 (s, 9H); 0.0 (d, 6H).

reactant | (±)-3-[1-(benzyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl]propane-1,2-diol | 0.031 mol, 9.6 g | C(C1=CC=CC=C1)OC1=C(C=CC=2CCCCC12)CC(CO)O | C20H24O3
reactant | tert-butyldimethylsilyl chloride | 0.032 mol, 4.86 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.037 mol, 2.51 g | N1C=NC=C1 | C3H4N2
product | (±)-1-[1-(benzyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol | 7.93 g, 61% | C(C1=CC=CC=C1)OC1=C(C=CC=2CCCCC12)CC(CO[Si](C)(C)C(C)(C)C)O | C26H38O3Si
